Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],1.34062458995
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],2.74117107767
[C:5]([H:6])#[C:7][H:8].[H:1][C:2]=[C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.16184560238
[H:1]/[C:2](=[C:3](/[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:2](=[C:3](\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])\[C:15]([H:16])([H:17])[H:18].[H:1],4.7865857617500005
[H:1][C:2]#[C:3].[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.16432742149
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@:6]1([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.965672391119
[C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-6.254050264959999
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C@:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])[H:19].[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],-4.56758691934
[H:1][C:2][O:3][C:4]1[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],2.26115702946
[O:1][O:2][C:3]([C:4]([H:5])[H:6])=[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[O:1][O:2][C:3][C:4]([H:5])[H:6],5.1804353283800015
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.817745860990001
[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.01484122295
[C:7]([H:8])#[C:9][O:10][H:11].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],-0.30307407919
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:10][H:11].[H:9],1.84544935153
[C:6][H:7].[H:1][C:2]=[C:3]([H:4])[C:5][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-8.19112887068
[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-4.3971665843
[C:1][C:2]([H:3])([H:4])[C:5]([C:6][O:7][H:8])=[C:9][H:10]>>[C:1](#[C:2][C:6][O:7][H:8])[H:4].[H:3][C:9](=[C:5])[H:10],-1.4263171926499998
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:7],4.84510352994
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-0.31516861525
[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[H:9].[O:1]=[C:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],3.72285128077
[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.37963665114
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:6],3.87483894141
[C:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.5091527867500005
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],1.36165472771
[H:9].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:10][H:11])=[C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14],-1.5326785317299998
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.263055917
